US06605626B2
Preparation of N1-(3-Fluorobenzoyl)-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine hydrochloride hydrate
Using the procedure described in Example 48, Part C, N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine (0.61 mmol) and 3-fluorobenzoyl chloride (1.2 mmol) yielded 152 mg (51%) of the title compound.

reactant | N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine | 0.61 mmol | N1=CC=C(C=C1)N1CCC(CC1)COC(=O)NNC=1C(=CC=CC1)N | C18H23N5O2
reactant | 3-fluorobenzoyl chloride | 1.2 mmol | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
product | N1-(3-Fluorobenzoyl)-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine hydrochloride hydrate | 152 mg, 51% | O.Cl.FC=1C=C(C(=O)NC=2C(=CC=CC2)NNC(=O)OCC2CCN(CC2)C2=CC=NC=C2)C=CC1 | InChI=1S/C25H26FN5O3.ClH.H2O/c26-20-5-3-4-19(16-20)24(32)28-22-6-1-2-7-23(22)29-30-25(33)34-17-18-10-14-31(15-11-18)21-8-12-27-13-9-21;;/h1-9,12-13,16,18,29H,10-11,14-15,17H2,(H,28,32)(H,30,33);1H;1H2
